US09382234B2
To a solution of benzyl 4-(5-chloro-3-(methoxycarbonyl)-2-methylphenoxy)piperidine-1-carboxylate (0.68 g, 1.627 mmol) in tetrahydrofuran (5 mL) and methanol (15 mL) was added 3 N NaOH (2.71 mL, 8.14 mmol). The reaction mixture was stirred for 1 h, then heated at 45° C. for 3 h. The volatiles were removed in vacuo to give an aqueous residue, which was diluted with water (25 mL) and cooled (ice bath). The mixture was acidified to pH˜3-4 with 1 M HCl and stirred for 15 min. The solids were filtered, washed with water, and dried under high vacuum overnight to give 3-((1-((benzyloxy)carbonyl)piperidin-4-yl)oxy)-5-chloro-2-methylbenzoic acid (0.52 g, 1.223 mmol, 75% yield). 1H NMR δ 1.54-1.72 (m, 2H), 1.83-1.98 (m, 2H), 2.29 (s, 3H), 3.38 (br. s., 2H), 3.58-3.70 (m, 2H), 4.72 (tt, 1H), 5.09 (s, 2H), 7.24-7.46 (m, 7H), 13.28 (br. s., 1H). MS(ES) [M+H]+ 404.1.

reactant | benzyl 4-(5-chloro-3-(methoxycarbonyl)-2-methylphenoxy)piperidine-1-carboxylate | 1.627 mmol, 0.68 g | ClC=1C=C(C(=C(OC2CCN(CC2)C(=O)OCC2=CC=CC=C2)C1)C)C(=O)OC | C22H24ClNO5
reactant | NaOH | 8.14 mmol, 3 N, 2.71 mL | [OH-].[Na+]
reactant | HCl | 1 M | Cl | ClH
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | methanol | 15 mL | CO | CH4O
solvent | water | 25 mL | O | H2O
product | 3-((1-((benzyloxy)carbonyl)piperidin-4-yl)oxy)-5-chloro-2-methylbenzoic acid | 1.223 mmol, 0.52 g, 75% yield | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)OC=1C(=C(C(=O)O)C=C(C1)Cl)C | C21H22ClNO5
